US07259266B2
Step 1. Preparation of ethyl 6-(trifluoromethoxy)-2-(trifluoromethyl)-8-vinyl-2H-chromene-3-carboxylate
To a mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21a, Step 2 (1.00 g, 2.07 mmole) and Pd(PPh3)4 (0.239 g, 0.207 mmole) in anhydrous toluene (50 mL) under a dry N2 atmosphere was added tributylvinyltin (0.665 mL, 2.28 mmole). The mixture was refluxed for 3 h and stirred at r.t for 18 h. After refluxing for and additional 21 h, sat. NH4F solution (50 mL) was added, the mixture was stirred for 30 minutes and extracted with EtOAc (200 mL). The extract was washed with brine (50 mL), dried over MgSO4, filtered and concentrated in vacuo. Purification by silica chromatography (95:5 hexanes:EtOAc) gave 0.510 g (64% yield) of the product as a crystalline solid: EIHRMS m/z 382.0620 (M+, C16H12F6O4, Calc'd 382.0640).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | tributylvinyltin | 2.28 mmole, 0.665 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | NH4F | 50 mL | [NH4+].[F-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.207 mmole, 0.239 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 6-(trifluoromethoxy)-2-(trifluoromethyl)-8-vinyl-2H-chromene-3-carboxylate | 0.510 g, 64% yield | FC(OC=1C=C2C=C(C(OC2=C(C1)C=C)C(F)(F)F)C(=O)OCC)(F)F | C16H12F6O4
